US04184041
172 g of thus obtained 2-bromo-5-methylpyridine was dissolved in 1.3 l of carbon tetrachloride, and the system was then heated. At the time refluxing begain (at 77° C.), chlorine gas was bubbled into the system with ultraviolet light irradiation. After a lapse of 5 hours, the completion of the reaction was confirmed by gas chromatography, and the system was cooled and air was bubbled into the system to expel the unreacted chlorine. The system was washed with water several times and dried over anhydrous sodium sulfate. Then, the carbon tetrachloride was distilled off, and the system was allowed to cool. The solid crystals thus-obtained were washed with n-hexane to obtain 152 g of 2-chloro-5-trichloromethylpyridine with a melting point of 51° to 54° C.

reactant | 2-bromo-5-methylpyridine | BrC1=NC=C(C=C1)C | C6H6BrN
reactant | chlorine | ClCl | Cl2
reactant | carbon tetrachloride | 1.3 l | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-chloro-5-trichloromethylpyridine | 152 g | ClC1=NC=C(C=C1)C(Cl)(Cl)Cl | C6H3Cl4N
